US06462198B1
9H-Xanthene-9-carboxylic acid (5-methyl-oxazol-2-yl)-amide.
The title compound, white solid, m.p. 217-220° C. and MS: m/e=306.1 (M+) was prepared in accordance with the general method of example 44a from 5-methyl-oxazol-2-ylamine [Ber. 95, 2419(1962)] and 9-xanthene-carboxylic acid chloride.

reactant | 5-methyl-oxazol-2-ylamine | CC1=CN=C(O1)N | C4H6N2O
reactant | 9-xanthene-carboxylic acid chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
product | 9H-Xanthene-9-carboxylic acid (5-methyl-oxazol-2-yl)-amide | CC1=CN=C(O1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C18H14N2O3
